US07214824B2
17(b): N-(4-Acetyl-2-methylphenyl)methanesulfonamide
A test tube for microwave was charged with tris(dibenzylidenacetone)dipalladium (0) chloroform adduct (205 mg, 0.20 mmol), 9,9-dimethyl-9H-xanthene-4,5-diyl)bis[diphenylphosphine] (345 mg, 0.60 mmol), 4-acetyl-2-methylphenyl trifluoromethanesulfonate (1.41 g, 5.0 mmol), methanesulfonamide (570 mg, 6.0 mmol), cesium carbonate (1.63 g, 7.0 mmol) and 1,4-dioxane (5 ml). The mixture was subjected to microwave irradiation at 120° C. with stirring for 10 minutes. Then, it was filterd off and the filtrate was concentrated under reduced pressure to furnish the crude residue which was applied to a silica gel chromatography column and eluted with a volume mixture of hexane:ethyl acetate (2/1) to give 390 mg (34% yield) of the title compound as a yellow solid.

reactant | 4-acetyl-2-methylphenyl trifluoromethanesulfonate | 5.0 mmol, 1.41 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C)=O)C)(F)F | C10H9F3O4S
reactant | methanesulfonamide | 6.0 mmol, 570 mg | CS(=O)(=O)N | CH5NO2S
reactant | cesium carbonate | 7.0 mmol, 1.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Acetyl-2-methylphenyl)methanesulfonamide | 390 mg, 34% yield | C(C)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C)C | C10H13NO3S
